US05051422
4-(3,4-Dichlorophenyl)-1-ethyl-N-[4-(1H-imidazol-1-yl)phenyl]-2-piperazinecarboxamide
In a manner similar to preparation 34, react N-(4-aminophenyl)-4-(3,4-dichlorophenyl)-1-ethyl-2-piperazinecarboxamide, ammonium hydroxide, aqueous formaldehyde, and glyoxal to obtain the title compound.

reactant | N-(4-aminophenyl)-4-(3,4-dichlorophenyl)-1-ethyl-2-piperazinecarboxamide | NC1=CC=C(C=C1)NC(=O)C1N(CCN(C1)C1=CC(=C(C=C1)Cl)Cl)CC | C19H22Cl2N4O
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | formaldehyde | C=O | CH2O
reactant | glyoxal | C(=O)C=O | C2H2O2
product | 4-(3,4-Dichlorophenyl)-1-ethyl-N-[4-(1H-imidazol-1-yl)phenyl]-2-piperazinecarboxamide | ClC=1C=C(C=CC1Cl)N1CC(N(CC1)CC)C(=O)NC1=CC=C(C=C1)N1C=NC=C1 | C22H23Cl2N5O
